US09278968B2
To a solution of 463 mg of N-{(2R)-1-{[tert-butyl (dimethyl)silyl]oxy}-2-[2-(difluoromethyl)-2H-tetrazol-5-yl]propan-2-yl}-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide in 8 ml of THF was added 1 ml of a 1 M tetrabutylammonium fluoride/THF solution, followed by stirring at room temperature for 2 hours. To the reaction mixture was added water, followed by extraction with chloroform. The organic layer was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography. To the obtained crude product was added ethyl acetate, and diisopropyl ether was further added thereto. The mixture was stirred for 1 hour in an oil bath at 85° C., left to be cooled to room temperature, and stirred overnight. The insoluble materials were collected by filtration and the solid was washed with diisopropyl ether to obtain 260 mg of 8-[(2,6-difluorobenzyl)oxy]-N-{(2R)-2-[2-(difluoromethyl)-2H-tetrazol-5-yl]-1-hydroxypropan-2-yl}-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | N-{(2R)-1-{[tert-butyl (dimethyl)silyl]oxy}-2-[2-(difluoromethyl)-2H-tetrazol-5-yl]propan-2-yl}-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 463 mg | C(C)(C)(C)[Si](OC[C@@](C)(C=1N=NN(N1)C(F)F)NC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C)(C)C | C27H33F4N7O3Si
reactant | tetrabutylammonium fluoride THF | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | water | O | H2O
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-[(2,6-difluorobenzyl)oxy]-N-{(2R)-2-[2-(difluoromethyl)-2H-tetrazol-5-yl]-1-hydroxypropan-2-yl}-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 260 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)N[C@](CO)(C)C=3N=NN(N3)C(F)F)C(=CC=C1)F | C21H19F4N7O3
